US08026270B2
(3-Chloro-4-{4-(ethyloxy)-1,3-dioxo-9-[(2,2,2-trifluoroethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetic acid
Ethyl (3-chloro-4-{4-(ethyloxy)-1,3-dioxo-9-[(2,2,2-trifluoroethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetate (0.060 g, 0.11 mmol) was heated to 100° C. in a 1:1 mixture of acetic acid:HCl (2N) (6 ml) for 1.25 hours. On addition of water, the resulting white solid was collected by filtration and washed with water (0.047 g, 0.09 mmol). LC/MS: Rt=3.44, [MH]+ 508.

reactant | Ethyl (3-chloro-4-{4-(ethyloxy)-1,3-dioxo-9-[(2,2,2-trifluoroethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetate | 0.11 mmol, 0.060 g | ClC=1C=C(C=CC1N1C(C=2C(=C3C(=C(C2C1=O)OCC(F)(F)F)C=CC=C3)OCC)=O)CC(=O)OCC | C26H21ClF3NO6
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | HCl | 2N, 6 ml | Cl | ClH
solvent | water | O | H2O
solvent | water | 0.09 mmol, 0.047 g | O | H2O
product | (3-Chloro-4-{4-(ethyloxy)-1,3-dioxo-9-[(2,2,2-trifluoroethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetic acid | ClC=1C=C(C=CC1N1C(C=2C(=C3C(=C(C2C1=O)OCC(F)(F)F)C=CC=C3)OCC)=O)CC(=O)O | C24H17ClF3NO6
